US06084112
Sodium 8-Aminocaprylate (3)
A 5 L three-neck round bottom flask was fitted with a heating mantle, an overhead mechanical stirrer, a reflux condenser, and a thermometer. A suspension of 2-azacyclononanone (83 g, 0.59 moles, 1.0 equiv.) in 5 M aqueous sodium hydroxide (650 mL, 3.23 moles, 5.5 equiv.) was charged into the round bottom flask. The mixture was heated to reflux (internal temperature about 110° C.) for 4 hours to yield a clear yellow solution. The heating mantle and reflux condenser were removed. After the solution cooled to room temperature, it was diluted with water (650 mL) and cooled further in an ice bath.

reactant | 2-azacyclononanone | 0.59 moles, 83 g, 1.0 equiv. | C1(NCCCCCCC1)=O | C8H15NO
reactant | sodium hydroxide | 3.23 moles, 5 M, 650 mL, 5.5 equiv. | [OH-].[Na+]
product | Sodium 8-Aminocaprylate | NCCCCCCCC(=O)[O-].[Na+] | InChI=1S/C8H17NO2.Na/c9-7-5-3-1-2-4-6-8(10)11;/h1-7,9H2,(H,10,11);/q;+1/p-1
